US05051417
1,3-Dihydro-5-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)-3-(2-nitrophenylmethylene)-2H-indol-2-one
Starting from 5-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)-1,3-dihydro-2H-indol-2-one and 2 nitro benzaldehyde and following the method described in Example 10, the desired compound was obtained.

reactant | 5-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)-1,3-dihydro-2H-indol-2-one | CC1C(=NNC(S1)=O)C=1C=C2CC(NC2=CC1)=O | C12H11N3O2S
reactant | nitro benzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
product | 1,3-Dihydro-5-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)-3-(2-nitrophenylmethylene)-2H-indol-2-one | Yield: 33% | CC1C(=NNC(S1)=O)C=1C=C2C(C(NC2=CC1)=O)=CC1=C(C=CC=C1)[N+](=O)[O-] | C19H14N4O4S
